US04335119
1. Preparation of 2,4,7-Triamino-6-(p-acetoxy-phenyl)-pteridine
410 mg metallic sodium were dissolved while stirring in 100 ml of 2-ethoxy ethanol. Thereafter, 1100 mg 2,4,6-Triaminonitrosopyrimidine are added while stirring together with 1140 mg p-acetoxybenzylcyanide and the mixture is heated while stirring up to the boiling point. The color of the mixture changed from violet to brown. After two hours boiling under reflux, the heat is turned off and the reaction mixture is allowed to cool. Thereafter, 70 to 80% of the 2-ethoxyethanol is distilled under the vacuum of the water system, and the residue is taken up in 500 mls of water. After four-fold extraction with ether the pH is adjusted to pH 5 with 2 N hydrochloric acid. The precipitate is filtered, it is washed with a small amount of ice-cold acetone and recrystallized from 10% acetic acid. Further purification can be carried out over a silica gel column. The title compound obtained melts at 319°-321° C. (carbonization).

reactant | sodium | 410 mg | [Na] | Na
reactant | 2,4,6-Triaminonitrosopyrimidine | 1100 mg | NC1=NC(=C(C(=N1)N)N=O)N | C4H6N6O
reactant | p-acetoxybenzylcyanide | 1140 mg | C(C)(=O)OC1=CC=C(CC#N)C=C1 | C10H9NO2
solvent | 2-ethoxy ethanol | 100 ml | C(C)OCCO | C4H10O2
product | 2,4,7-Triamino-6-(p-acetoxy-phenyl)-pteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC=C(C=C1)OC(C)=O)N | C14H13N7O2
